US04665227
N-(1-Methylethyl)-N-[2-(1-methylethylamino)ethyl]-4-nitrobenzene sulfonamide
p-Nitrobenzenesulfonyl chloride (22.1 g, 0.1 mole) in methylene chloride (150 ml) was added dropwise with stirring to N,N'-diisopropyl ethylene diamine (14.4 g, 0.1 mole) and triethylamine (10.1 g, 0.1 mole) in methylene chloride (400 ml). The reaction was stirred one hour at room temperature, washed with water and the solvent removed. The residue dissolved in diethyl ether precipitated the unwanted "bis" byproduct which was filtered and discarded. Chromatography of the filtrate on Dry Column Silica Gel (500 g) with ethyl acetate provided pure product free base as a gum (14.31 g). Conversion, using isopropanol/HCl, to the hydrochloride salt provided the title compound as the hydrochloride salt (14.85 g) m.r. 219°-222° C.

reactant | p-Nitrobenzenesulfonyl chloride | 0.1 mole, 22.1 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N'-diisopropyl ethylene diamine | 0.1 mole, 14.4 g | C(C)(C)NCCNC(C)C | C8H20N2
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Methylethyl)-N-[2-(1-methylethylamino)ethyl]-4-nitrobenzene sulfonamide | CC(C)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCNC(C)C | C14H23N3O4S
